### PR TITLE
chore: name variables in Data/BitVec consistently

### PR DESCRIPTION
**Pull request by tobiasgrosser**
This change canonicalizes the BitVec variable names to `x y z : BitVec` instead of alternative namings such as `s t : BitVec` or `a b : BitVec`. Variable names that carry semantic meaning such as `(msbs : BitVec w) (lsb : Bool)` remain untouched.

This is purely a naming change to make our bitvector proofs more consistent and polish the (auto-generated) documentation as a very small step towards polishing the documentation of the BitVec library in Lean.

### CODE REVIEW

File: src/Init/Data/BitVec/Basic.lean [hunk 1]
```diff
@@ -413,7 +413,7 @@ def zeroExtend' {n w : Nat} (le : n ≤ w) (x : BitVec n)  : BitVec w :=
 `shiftLeftZeroExtend x n` returns `zeroExtend (w+n) x <<< n` without
 needing to compute `x % 2^(2+n)`.
 -/
-def shiftLeftZeroExtend (msbs : BitVec w) (m : Nat) : BitVec (w+m) :=
+def shiftLeftZeroExtend (msbs : BitVec w) (m : Nat) : BitVec (w + m) :=
   let shiftLeftLt {x : Nat} (p : x < 2^w) (m : Nat) : x <<< m < 2^(w+m) := by
```
Comment (AnotherAlexHere) [inline src/Init/Data/BitVec/Basic.lean:417]:
```suggestion
  let shiftLeftLt {x : Nat} (p : x < 2^w) (m : Nat) : x <<< m < 2^(w + m) := by
```
It might be worth keeping the ws consistent. This holds for most of the document. I don't mind doing this in a new PR.

File: src/Init/Data/BitVec/Basic.lean
Comment (AnotherAlexHere) [inline src/Init/Data/BitVec/Basic.lean:1]:
```lean
def sdiv (s t : BitVec n) : BitVec n :=
  match s.msb, t.msb with
  | false, false => udiv s t
  | false, true  => .neg (udiv s (.neg t))
  | true,  false => .neg (udiv (.neg s) t)
  | true,  true  => udiv (.neg s) (.neg t)
```
s, t should change to x, y.

Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Basic.lean:1]: Thank you. I addressed this comment.

**Comment by AnotherAlexHere** [comment]
> This is purely a naming change to make our bitvector proofs more consistent and removes the last uses of i/j and similar simply enumerative variable names for BitVectors.

I think it may be helpful to explain the purpose of these changes and give examples.

**Comment by tobiasgrosser** [comment]
> > This is purely a naming change to make our bitvector proofs more consistent and removes the last uses of i/j and similar simply enumerative variable names for BitVectors.
> 
> I think it may be helpful to explain the purpose of these changes and give examples.

I updated the commit message accordingly.

**Comment by semorrison** [comment]
Thanks! Happy to merge when you mark it as ready.

File: src/Init/Data/BitVec/Basic.lean [hunk 2]
```diff
@@ -71,7 +71,7 @@ instance natCastInst : NatCast (BitVec w) := ⟨BitVec.ofNat w⟩
 
 /-- Given a bitvector `a`, return the underlying `Nat`. This is O(1) because `BitVec` is a
```
Comment (AnotherAlexHere) [inline src/Init/Data/BitVec/Basic.lean:72]:
```suggestion
/-- Given a bitvector `x`, return the underlying `Nat`. This is O(1) because `BitVec` is a
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 3]
```diff
@@ -326,15 +326,15 @@ theorem zeroExtend_truncate_succ_eq_zeroExtend_truncate_add_twoPow (x : BitVec w
...
-theorem mulRec_eq_mul_signExtend_truncate (l r : BitVec w) (s : Nat) :
-    mulRec l r s = l * ((r.truncate (s + 1)).zeroExtend w) := by
+theorem mulRec_eq_mul_signExtend_truncate (x y : BitVec w) (s : Nat) :
+    mulRec x y s = x * ((y.truncate (s + 1)).zeroExtend w) := by
   induction s
   case zero =>
     simp only [mulRec_zero_eq, ofNat_eq_ofNat, Nat.reduceAdd]
-    by_cases r.getLsb 0
+    by_cases y.getLsb 0
     case pos hr =>
```
Comment (AnotherAlexHere) [inline src/Init/Data/BitVec/Bitblast.lean:338]:
```suggestion
    case pos hy =>
```
I recommend switching hr to hy, there are more instances of this.

Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Bitblast.lean:338]: Fixed.

File: src/Init/Data/BitVec/Lemmas.lean
Comment (AnotherAlexHere) [inline src/Init/Data/BitVec/Lemmas.lean:1]:
```lean
@[simp] theorem getLsb_append {x : BitVec n} {y : BitVec m} :
    getLsb (x ++ y) i = bif i < m then getLsb y i else getLsb x (i - m) := by
  simp only [append_def, getLsb_or, getLsb_shiftLeftZeroExtend, getLsb_zeroExtend']
  by_cases h : i < m
  · simp [h]
  · simp [h]; simp_all

@[simp] theorem getMsb_append {x : BitVec n} {y : BitVec m} :
    getMsb (x ++ y) i = bif n ≤ i then getMsb y (i - n) else getMsb x i := by
  simp [append_def]
  by_cases h : n ≤ i
  · simp [h]
  · simp [h]
```
Lines 872 to 880. Everything else looks good.

File: src/Init/Data/BitVec/Bitblast.lean (hunk 3 above)
Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Bitblast.lean]: Addressed.

**Review by AnotherAlexHere — APPROVED** [review]
Looks good!
